US04029683
A mixture of 2.5 g. (5.9 millimols) of (R)-2-amino-1,1-di(2-isopropoxyphenyl)-3-phenyl-1-propanol {[α]D +65.0° (c 1.0, chloroform)} and 0.66 g. (5.4 millimols) of salicylaldehyde in 50 ml benzene was heated under reflux for 2.5 hours. After the distillation of the solvent from the reaction mixture, the residue was recrystallized from ethanol to give (R)-N-salicylidene-2-amino-1,1-di(2-isopropoxyphenyl)-3-phenyl-1-propanol as yellow crystals. Yield, 2.43 g. (85%); melting point, 152° - 153° C.; [α]D, +65.25° (c 1.00, chloroform).

reactant | (R)-2-amino-1,1-di(2-isopropoxyphenyl)-3-phenyl-1-propanol | 5.9 millimols | N[C@@H](C(O)(C1=C(C=CC=C1)OC(C)C)C1=C(C=CC=C1)OC(C)C)CC1=CC=CC=C1 | C27H33NO3
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
reactant | salicylaldehyde | 5.4 millimols | C(C=1C(O)=CC=CC1)=O | C7H6O2
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | (R)-N-salicylidene-2-amino-1,1-di(2-isopropoxyphenyl)-3-phenyl-1-propanol | C(C=1C(O)=CC=CC1)=N[C@@H](C(O)(C1=C(C=CC=C1)OC(C)C)C1=C(C=CC=C1)OC(C)C)CC1=CC=CC=C1 | C34H37NO4
